Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ history of WPW, HLD, HTN, prostate cancer
scheduled for robotic radical prostatectomy on ___,
presenting to the emergency department with acute onset lower
abdominal pain, rigors and nausea.

He was in his relatively usual state of health until yesterday
morning when he woke up and noticed acute onset central lower
abdominal pain radiating to the left flank. Describes it as
sharp, constant, associated with nausea and dry heaves. Was also
experiencing rigors and subjective warmth. Denied any dysuria,
burning on urination or hematuria.

In the ED, initial VS were: T 97.0 HR 58 BP 173/85 RR18 O2 100%
RA 

Exam notable for:
GA: Uncomfortable
HEENT: No scleral icterus
Cardiovascular: Normal S1, S2, regular rate and rhythm, no
murmurs/rubs/gallops, 2+ peripheral pulses bilaterally
Pulmonary: Clear to auscultation bilaterally
Abdominal: Soft, tender to palpation diffusely, nondistended, no
masses
Extremities: No lower leg edema
Integumentary: No rashes noted

Labs notable for: 
- WBC 9.2, Hb 16.1, HCT 45.1, PLT 262
- Na 140, K 4.4, BUN 18, Cr 1.3, glucose 220, AG 23
- LFTs WNL
- Phos 1.3
- Lactate 4.2 down-trended to 2.0 with IVF
- VBG ___ 
- UA showing trace protein, 1000 glucose, 80 ketones

Imaging showed:
CTU A/P W&WO Contrast:
1. Mild left hydroureter secondary to an obstructing 2 mm distal
ureteric stone as detailed above.
2. Marked stranding of the left perinephric and periureteral 
soft
tissues likely secondary to obstruction, however there is no
evidence of ureteral extravasation of contrast to suggest
ureteral rupture.

CXR:
1. Mild cardiomegaly with cephalization of the bilateral
pulmonary vasculature suggests mild interstitial pulmonary 
edema.
No pleural effusion.

Patient received:
___ 10:00 IV Morphine Sulfate 4 mg 
___ 10:00 IV Ondansetron 4 mg 
___ 10:00 IVF  NS  
___ 10:15 PO Acetaminophen 1000 mg 
___ 10:25 IV Morphine Sulfate 4 mg 
___ 10:37 IVF  NS 1000 mL
___ 10:37 IV Piperacillin-Tazobactam  
___ 10:37 IVF  NS ( 1000 mL ordered)   
___ 11:14 IV Vancomycin (1000 mg ordered)
___ 11:15 IV Piperacillin-Tazobactam 4.5 g 
___ 12:50 IVF  NS  
___ 13:52 IV Vancomycin  
___ 15:41 IV CefePIME  
___ 16:16 IV CefePIME 2 g )  
___ 17:11 IV Morphine Sulfate 4 mg 
___ 18:10 IV CefTRIAXone  
___ 18:10 IVF  LR   
___ 19:20 IV CefTRIAXone 1 gm
___ 19:20 IVF  LR 500 mL 

Consults
Urology: Reviewed imaging, suspecting patient had a larger
obstructing ureteral stone which is now passed.  On review of
imaging, with punctate left distal ureteral stone fragment with
proximal hydroureter and RP fluid and contrast extravasation
consistent with forniceal rupture. No indication for GU
intervention at this time, recommend getting hydration, strain
urine for stone fragments, Flomax.

Transfer VS were:
T 97.7 HR 55 BP 160/91 RR16 O296% RA 

On arrival to the floor, patient confirms the above
history.  States that his abdominal pain is now completely
resolved after receiving morphine in the ED. Currently denies 
any
subjective fevers, chills, no nausea. Still without any urinary
symptoms and no dysuria, burning on urination, or hematuria.
States he has never had any prior history of kidney stones,
thinks his mother may have had a kidney stone before.  Urinating
okay, last urinated 1 hour prior.

 
Past Medical History:
Hypertension
Hyperlipidemia
DM
Prostate Cancer
 
Social History:
___
Family History:
Brother DM
Father ___ Cancer
Mother A.fib, possibly nephrolithaisis
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: T 100.1 BP 143/82 HR 73 RR 16 O2 97%RA
GENERAL: Comfortable, in NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly. No CVA tenderness
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face 
symmetric
DERM: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE PHYSICAL EXAM:
========================
VS: ___ 0407 Temp: 98.8 PO BP: 149/82 L Lying HR: 74 RR: 16
O2 sat: 95% O2 delivery: RA 
GENERAL: Comfortable, in NAD, appears stated age
HEENT: NC/AT, anicteric sclera, MMM
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly. No CVA tenderness
EXTREMITIES: warm and well perfused, no edema
NEURO: A&Ox3, moving all 4 extremities with purpose, face
symmetric. No focal neurologic deficits

 
Pertinent Results:
ADMISSION LABS:
===============
___ 09:25AM   PLT COUNT-262
___ 09:25AM   NEUTS-74.3* LYMPHS-15.2* MONOS-7.6 EOS-1.1 
BASOS-0.3 IM ___ AbsNeut-6.84* AbsLymp-1.40 AbsMono-0.70 
AbsEos-0.10 AbsBaso-0.03
___ 09:25AM   WBC-9.2 RBC-5.02 HGB-16.1 HCT-45.1 MCV-90 
MCH-32.1* MCHC-35.7 RDW-12.9 RDWSD-42.4
___ 09:25AM   ALBUMIN-4.9 CALCIUM-10.1 PHOSPHATE-1.3* 
MAGNESIUM-1.7
___ 09:25AM   LIPASE-22
___ 09:25AM   ALT(SGPT)-37 AST(SGOT)-30 ALK PHOS-77 TOT 
BILI-0.6
___ 09:25AM   GLUCOSE-220* UREA N-18 CREAT-1.3* SODIUM-140 
POTASSIUM-4.4 CHLORIDE-99 TOTAL CO2-18* ANION GAP-23*
___ 09:32AM   O2 SAT-64
___ 09:32AM   GLUCOSE-195* LACTATE-4.2* K+-4.0
___ 09:32AM   ___ PO2-30* PCO2-21* PH-7.56* TOTAL 
CO2-19* BASE XS--1 COMMENTS-PERIPHERAL
___ 10:25AM URINE  MUCOUS-RARE*
___ 10:25AM URINE  RBC-3* WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 10:25AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-1000* KETONE-80* BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 10:25AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:32PM   LACTATE-2.0
___ 01:32PM   ___ PO2-29* PCO2-46* PH-7.34* TOTAL 
CO2-26 BASE XS--2

PERTINENT LABS:
===============
___ 07:59AM BLOOD %HbA1c-5.8 eAG-120
___ 01:32PM BLOOD Lactate-2.0

MICROBIOLOGY:
=============
__________________________________________________________
___ 1:10 am URINE      Source: ___. 

   URINE CULTURE (Pending): 
__________________________________________________________
___ 10:25 am BLOOD CULTURE      SET#2. 

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 10:25 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 
__________________________________________________________
___ 9:28 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 

IMAGING:
========
___ CTU (Abd/Pelv) W/WO Contrast
FINDINGS:  
LOWER CHEST: Visualized lung fields are within normal limits. 
There is no 
evidence of pleural or pericardial effusion. 
  
ABDOMEN: 
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions.  There is no evidence of 
intrahepatic or extrahepatic biliary dilatation.  The 
gallbladder is within normal limits. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions or pancreatic ductal 
dilatation.  There is no peripancreatic stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: There is marked stranding of the left perinephric and 
periureteric soft tissues that extends down to the pelvis.  
There is mild left-sided hydroureter extending distally to the 
pelvis where an obstructing 2 mm punctate calculus (2:80) is 
visualized just proximal to the ureteral vesicular junction.  
There is no hydronephrosis.  There are no bladder stones 
visualized.  The kidneys are symmetric in size and nephrogram 
bilaterally.  No suspicious renal masses. 
  
GASTROINTESTINAL: Small hiatal hernia.  The stomach 
unremarkable.  Small bowel loops demonstrate normal caliber, 
wall thickness, and enhancement throughout.  The colon and 
rectum are within normal limits.  A partially calcified epiploic 
appendages noted within the right pericolic gutter (04:50) 
without evidence of acute appendicitis. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The visualized reproductive organs are 
unremarkable. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  Minimal 
atherosclerotic 
disease is noted. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION:   
1. Mild left hydroureter secondary to an obstructing 2 mm distal 
ureteric 
stone as detailed above. 
2. Marked stranding of the left perinephric and periureteral 
soft tissues is likely secondary to forniceal rupture. 

DISCHARGE LABS:
===============
___ 07:59AM BLOOD WBC-7.6 RBC-4.37* Hgb-13.3* Hct-40.5 
MCV-93 MCH-30.4 MCHC-32.8 RDW-13.1 RDWSD-44.3 Plt ___
___ 07:59AM BLOOD Plt ___
___ 07:59AM BLOOD Glucose-132* UreaN-11 Creat-1.0 Na-141 
K-4.3 Cl-103 HCO3-25 AnGap-13
___ 07:59AM BLOOD Calcium-8.8 Phos-3.3 Mg-2.___RIEF HOSPITAL SUMMARY:
=======================
Mr. ___ is a ___ w/ PMH of WPW, HLD, HTN, prostate cancer 
scheduled for robotic radical prostatectomy on ___, who 
presented with acute onset lower abdominal pain, rigors and 
nausea, found to have obstructing 2 mm distal ureteric stone 
with mild L hydroureter, per urology thought to have had larger 
obstructing stone that has now passed, with no role for
urological intervention. 

TRANSITIONAL ISSUES:
====================
[ ] Stopped aspirin during admission. Do not take aspirin as 
patient is within 7 days of surgery.
[ ] Dr. ___ is aware of recent admission and is planning on 
radical prostatectomy ___ as scheduled. Patient can also 
call his office to confirm that there are no issues with this 
plan. 
[ ] Continue cefpodoxime 200mg twice a day from tonight until 
___, or until urologists change or discontinue this antibiotic 
after surgery. 
[ ] Started on Flomax during his hospitalization and continued 
on it at discharge. Consider discontinuing this in the future if 
no longer needed. 
[ ] Glucosuria on admission with glucose of 1000 on urinalysis, 
negative on repeat U/A. HbA1c was checked and was 5.8%. 
[ ] Urine cultures from ___ negative. Urine culture from ___ 
still pending. 
[ ] Blood culture from ___ pending, no growth to date.

ACUTE ISSUES
============
# Nephrolithiasis 
Patient presented with severe acute abdominal pain radiating to 
the L flank, along with nausea and rigors, found to have 
obstructing 2 mm distal ureteric stone with mild L hydroureter 
on CTU. Urology was consulted and think patient may have had a 
larger obstructing stone that passed prior to imaging. Urology 
reviewed imaging and was concerned for proximal hydroureter and 
retroperitoneal fluid and contrast extravasation consistent with 
forniceal rupture or possible inflammation at site where 
obstructing stone had been. Patient had an elevated lactate to 
4.2 in the ED and had an elevated temperature to 100.1. Given 
the imaging, elevated lactate and rigors, he received 
vancomycin, zosyn and ceftriaxone in the ED due to concern for 
urosepsis, and was continued on zosyn overnight. Per urology, 
there was no role for GU intervention at this time. Lactate 
returned to normal range after administration of fluids. Urine 
culture from ___ was negative, while urine culture from ___ was 
still pending at time of discharge. Blood cultures from ___ were 
still pending at time of discharge, but had no growth to date. 
Patient received Flomax 0.4mg qd which will be continued on 
discharge. Patient was discharged on cefpodoxime 200 BID for 9 
days, to complete a 10-day course of antibiotics from empiric 
pyelonephritis treatment.

# ___ 
Patient presented with Cr of 1.3, with unknown baseline but no 
known history of renal disease. Etiology was most likely 
post-obstructive ___ ___ nephrolithiasis with some pre-renal 
component possible given elevated lactate that improved with 
fluid. Creatinine on day of discharge had downtrended to 1.0. 
Home losartan was held on admission due to ___ but was restarted 
upon discharge. 

# Prostate cancer 
Patient was recently diagnosed intermediate to high-risk 
prostate cancer s/p
prostate biopsy ___, which showed multiple cores ___ 
3+3, 3+4 prostate cancer. He is scheduled for robotic radical 
prostatectomy with Dr.
___ on ___. Dr. ___ was aware of patient's 
admission and is still planning for surgery ___ as 
scheduled. Patient was instructed to hold ASA 1 week prior to 
surgery so this was held on admission and upon discharge. 

#Glucosuria, resolved
Initial U/A with 1000 glucose, negative glucose on repeat 
urinalysis. HbA1c 5.8% during hospitalization. No intervention 
necessary.

CHRONIC ISSUES:
===============
#HLD - Continued home simvastatin 

#HTN - Held home losartan iso ___, restarted upon discharge. 

#CODE: Full (presumed)
#CONTACT:
Name of health care proxy: ___ 
Phone number: ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. Simvastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 200 mg PO Q12H Duration: 17 Doses 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth daily Disp #*17 
Tablet Refills:*0 
2.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin [Flomax] 0.4 mg 1 capsule(s) by mouth at bedtime 
Disp #*30 Capsule Refills:*0 
3.  Losartan Potassium 50 mg PO DAILY  
4.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
Nephrolithiasis 
___

Secondary Diagnoses:
Prostate cancer
Hyperlipidemia
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___ ,  

It was a pleasure to care for you at the ___ 
___.  

Why did you come to the ___?  
- You came to the hospital because you had acute abdominal pain 
radiating to your left side. 

What did you receive in the hospital?  
- You had imaging that showed a small stone in your urinary 
tract. 
- You were seen by urology who think that you had a larger 
obstructing stone in your ureter that caused the pain. 
- You received pain medications and fluids to help relieve your 
symptoms and pass the stone.
- You were also started on antibiotics to treat any infection 
that could have developed in your kidney due to the stone. 

What should you do once you leave the hospital?  
- You should take all of your medications as prescribed.
- You should attend all of your scheduled outpatient 
appointments.
- If you develop fevers, severe persistent pain or nausea, or 
decreased urination, you should seek further care at the 
Emergency Department.

We wish you the best!  
Your ___ Care Team  
 
Followup Instructions:
___